US07560558B2
Propyl 3-(7-benzyloxy-6-methoxy-quinolin-4-yloxy)naphthalene-2-carboxylate (160 mg) was dissolved in trifluoroacetic acid (1.5 ml) to prepare a solution. Methanesulfonic acid (0.15 ml) was added to the solution, and the mixture was stirred at 70° C. for one hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. An aqueous sodium hydrogencarbonate solution was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give propyl 3-(7-hydroxy-6-methoxy-quinolin-4-yloxy)-naphthalene-2-carboxylate (87 mg, yield 68%).

reactant | Propyl 3-(7-benzyloxy-6-methoxy-quinolin-4-yloxy)naphthalene-2-carboxylate | 160 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=CC2=CC=CC=C2C1)C(=O)OCCC)OC | C31H27NO5
reactant | Methanesulfonic acid | 0.15 ml | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | propyl 3-(7-hydroxy-6-methoxy-quinolin-4-yloxy)-naphthalene-2-carboxylate | 87 mg, yield 68% | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=CC2=CC=CC=C2C1)C(=O)OCCC)OC | C24H21NO5
